US05116526
Until HCFC-225a becomes available in commercial quantities, HCFC-225a may be prepared by a standard and well-known organic synthesis technique. For example, 2,2-dichloro-1,1,1,3,3-pentafluoropropane may be prepared by reacting a dimethylformamide solution of 1,1,1-trichloro-2,2,2-trifluoromethane with chlorotrimethylsilane in the presence of zinc, forming 1-(trimethylsiloxy)-2,2-dichloro-3,3,3-trifluoro-N,N-dimethy lpropylamine. The 1-(trimethylsiloxy)-2,2-dichloro-3,3,3-trifluoro-N,N-dimethyl propylamine is reacted with sulfuric acid to form 2,2-dichloro-3,3,3-trifluoropropionaldehyde. The 2,2-dichloro-3,3,3-trifluoropropionaldehyde is then reacted with sulfur tetrafluoride to produce 2,2-dichloro-1,1,1,3,3-pentafluoropropane.

reactant | 2,2-dichloro-1,1,1,3,3-pentafluoropropane | ClC(C(F)(F)F)(C(F)F)Cl | C3HCl2F5
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
reactant | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | zinc | [Zn] | Zn
product | 1-(trimethylsiloxy)-2,2-dichloro-3,3,3-trifluoro-N,N-dimethy lpropylamine | C[Si](OC(C(C(F)(F)F)(Cl)Cl)N(C)C)(C)C | C8H16Cl2F3NOSi
